US08440677B2
The synthetic scheme for the preparation of 2-((6-amino-9H-purin-9-yl)methyl)-5-methyl-3-o-tolylquinazolin-4(3H)-one, 1, is shown in FIG. 1. 2-amino-6-methylbenzoic acid, 1″, is reacted with 2-chloroacetyl chloride to produce the 2-(−2-chloroacetamido)-6-methylbenzoic acid, 2″. Reaction with o-toluidine and phosphoryl trichloride yields the cyclized intermediate, 3″. Further reaction with diBOC-protected adenine give the BOC protected product, 4″, which is deprotected resulting in 2-((6-amino-9H-purin-9-yl)methyl)-5-methyl-3-o-tolylquinazolin-4(3H)-one, 1.

reactant | 2-((6-amino-9H-purin-9-yl)methyl)-5-methyl-3-o-tolylquinazolin-4(3H)-one | NC1=C2N=CN(C2=NC=N1)CC1=NC2=CC=CC(=C2C(N1C1=C(C=CC=C1)C)=O)C | C22H19N7O
reactant | 2-amino-6-methylbenzoic acid | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-(−2-chloroacetamido)-6-methylbenzoic acid | ClCC(=O)NC1=C(C(=O)O)C(=CC=C1)C | C10H10ClNO3
